US05929094
Step B: 2-Bromo-3-methoxy-6-aminopyridine
2-Bromo-3-methoxy-6-nitropyridine (470 mg, 2.0 mmol) was added to 8 mL (3:1 water: ethanol) and 2 mL of 30% ammonium hydroxide. Added 350 mg (2 mmol) of sodium hydrosulfite (Na2SsO4) and heated to 60° C. After 30 min, no starting material was seen. Added 50 mL of water and extracted the product with methylene chloride (2×25 mL). Dried over MgSO4, filtered and reduced the volume. Flash chromatography (75/25 hexane/ethyl acetate) recovered 200 mg of product (50% yield). 1H NMR (CDCl3, 200 MHz) δ 7.06 (d, 1H, 10 Hz), 6.41 (d, 1H, J=10 Hz), 3.8 (s, 3H) ppm

reactant | 2-Bromo-3-methoxy-6-nitropyridine | 2.0 mmol, 470 mg | BrC1=NC(=CC=C1OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | ammonium hydroxide | 2 mL | [OH-].[NH4+]
reactant | sodium hydrosulfite | 2 mmol, 350 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | 50 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-Bromo-3-methoxy-6-aminopyridine | 200 mg, 50% yield | BrC1=NC(=CC=C1OC)N | C6H7BrN2O
